US06987114B1
1-(3-Cyanobenzyl)-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 3-cyanobenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (207 mg, yield: 53.4%).

reactant | 5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | 3-cyanobenzyl bromide | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
product | 1-(3-Cyanobenzyl)-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 207 mg, yield: 53.4% | C(#N)C=1C=C(CN2C(NC(C(=C2C(C2=CC(=CC(=C2)C)C)=O)CC)=O)=O)C=CC1 | C23H21N3O3
